US04647566
To a suspension of 6 g of ethyl 4-hydroxy-6-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate in 200 mL of ethanol, 1.92 g of NaBH4 is added in small portions under ice-cooling and stirring. The reaction mixture is then stirred at room temperature for 6 hours and evaporated to dryness. The residue is taken up in CHCl3, washed successively with 6N NH4OH, and sat. aq. NaCl, dried (MgSO4) and evaporated dryness obtaining ethyl 4,6-dihydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylate.

reactant | ethyl 4-hydroxy-6-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate | 6 g | OC1=C(C=NC=2CCC(CC12)=O)C(=O)OCC | C12H13NO4
reactant | NaBH4 | 1.92 g | [BH4-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 4,6-dihydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylate | OC1=C(C=NC=2CCC(CC12)O)C(=O)OCC | C12H15NO4
